US04038415
Method of making 1-(4-hydroxyphenyl)-2-(4-chlorophenyl)-3-phenyl-2-propen-1-one having the structural formula
8 g (0.0324 mole) of 1-(4-hydroxyphenyl)-2-(4-chlorophenyl)ethanone (prepared by Friedel-Craft reaction between methoxybenzene and 4-chlorophenylacetylchloride, followed by demethylation of the methyl ether with pyridine hydrochloride) was treated with 3.44 g (0.0324 mole) of benzaldehyde and 2.58 g (0.304 mole) of piperidine in 15 ml of methanol at 60° C. and worked up as under Example IA gave 9.0 g of crude product. 8.5 g of this material on refluxing with 85 ml of glacial acetic acid for 4 hours and was worked up as under Example IB. Trituration with hot methanol and cooling gave 3 g (44.5%) of crystalline material, m.p. 228°.

reactant | 1-(4-hydroxyphenyl)-2-(4-chlorophenyl)ethanone | 0.0324 mole, 8 g | OC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)=O | C14H11ClO2
reactant | methoxybenzene | COC1=CC=CC=C1 | C7H8O
reactant | 4-chlorophenylacetylchloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | methyl ether | COC | C2H6O
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | benzaldehyde | 0.0324 mole, 3.44 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 0.304 mole, 2.58 g | N1CCCCC1 | C5H11N
solvent | methanol | 15 ml | CO | CH4O
solvent | acetic acid | 85 ml | C(C)(=O)O | C2H4O2
product | 1-(4-hydroxyphenyl)-2-(4-chlorophenyl)-3-phenyl-2-propen-1-one | 3 g, 44.5% | OC1=CC=C(C=C1)C(C(=CC1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O | C21H15ClO2
